US06251890B1
Step 2: Preparation of 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl Chloride
Chlorosulfonic acid (40 mmol) is added dropwise to a cold (0° C.) solution of 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline (8 mmol) in chloroform (800 mL). The resulting solution is stirred at 0° C. for 30 minutes. The cold bath is then removed and the solution is stirred at room temperature for 1 hour then cautiously poured into ice-water. The organic layer is separated, dried over magnesium sulfate and concentrated to afford the title compound. The crude product can be purified by recrystallization or chromatography.

reactant | Chlorosulfonic acid | 40 mmol | ClS(=O)(=O)O | ClHO3S
reactant | 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline | 8 mmol | FC(C(=O)N1CC2=CC=CC=3C2=C(C1)C=CC3)(F)F | C14H10F3NO
solvent | chloroform | 800 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-2-trifluoroacetyl-1H-Benz[de]isoquinoline-6-sulfonyl Chloride | FC(C(=O)N1CC2=CC=CC=3C2=C(C1)C=CC3S(=O)(=O)Cl)(F)F | C14H9ClF3NO3S
